### PR TITLE
[Merged by Bors] - feat: explicit limits in Profinite

### PR DESCRIPTION
**Pull request by dagurtomas**
Co-authored by:

- Riccardo Brasca [riccardo.brasca@gmail.com](mailto:riccardo.brasca@gmail.com) @riccardobrasca
- Filippo A. E. Nuccio [filippo.nuccio@univ-st-etienne.fr](mailto:filippo.nuccio@univ-st-etienne.fr) @faenuccio

Analogue of CompHaus/ExplicitLimits for Profinite.
This work was done during the 2023 Copenhagen masterclass on formalisation of condensed mathematics. Numerous participants contributed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
Please remember to add the label `awaiting-review` when this is ready for review. (Alternatively PRs that refactor files that were ported from mathlib3 should be labelled `after-port`.)

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 1]
```diff
@@ -0,0 +1,314 @@
...
+# Explicit limits and colimits
+
+This file collects some constructions of explicit limits and colimits in `Profinite`,
+which may be useful due to their definitional properties.
+
+So far, we have the following:
+- Explicit pullbacks, defined in the "usual" way as a subset of the product.
+- Explicit finite coproducts, defined as a disjoint union.
+
+This is essentially just copied from the Profinite folder
```
Comment (riccardobrasca) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:21]:
```suggestion
This is essentially just copied from the `CompHaus` folder
```

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 2]
```diff
@@ -0,0 +1,314 @@
...
+  hom := FromExplicit f g
+  inv := ToExplicit f g
+  hom_inv_id := fromExplicit_comp_toExplicit_eq_id f g
+  inv_hom_id := toExplicit_comp_fromExplicit_eq_id f g
+
+end Isos
+
+section Compatibility
+
+theorem explicit_fst_eq :
```
Comment (riccardobrasca) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:149]: I feel it's more natural to state the reversed equality, as it is done below for the coproduct. I don't have a real argument, so if you prefer this order I'm fine with it, but it should be the same for all explicit constructions.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean (hunk 2 above)
Comment (dagurtomas) [reply Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:117]: I want to have the explicit stuff on the LHS, and the abstract limit stuff on the RHS. This approach is now unified in this PR and the corresponding one for CompHaus

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 3]
```diff
@@ -0,0 +1,211 @@
+/-
```
Comment (semorrison) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:1]: Could this file just be called `Limits.lean`? I think that would be consistent with naming elsewhere.

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 4]
```diff
@@ -0,0 +1,211 @@
...
+  Limits.PullbackCone.isLimitAux _
+    (fun s => pullback.lift f g s.fst s.snd s.condition)
+    (fun _ => pullback.lift_fst _ _ _ _ _)
+    (fun _ => pullback.lift_snd _ _ _ _ _)
+    (fun _ _ hm => pullback.hom_ext _ _ _ _ (hm .left) (hm .right))
+
+section Isos
+
+noncomputable
+def FromExplicitIso : Profinite.pullback f g ≅ Limits.pullback f g :=
```
Comment (semorrison) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:106]: Should not start with an uppercase.

Perhaps rename to just `isoPullback`? Or `pullbackIsoPullback`?

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 5]
```diff
@@ -0,0 +1,211 @@
...
+  uniq := fun s m hm => finiteCoproduct.hom_ext _ _ _ fun a => by
+    specialize hm ⟨a⟩
+    ext t
+    apply_fun (· t) at hm
+    exact hm
+
+section Iso
+
+noncomputable
+def FromFiniteCoproductIso : finiteCoproduct X ≅ ∐ X :=
```
Comment (semorrison) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:182]: Similarly here.

File: Mathlib/Topology/Category/Profinite/ExplicitLimits.lean [hunk 6]
```diff
@@ -0,0 +1,211 @@
...
+Limits.IsColimit.coconePointUniqueUpToIso (finiteCoproduct.isColimit X) (Limits.colimit.isColimit _)
+
+theorem Sigma.ι_comp_toFiniteCoproduct (a : α) :
+    finiteCoproduct.ι X a = (Limits.Sigma.ι X a) ≫ (FromFiniteCoproductIso X).inv := by
+  simp only [FromFiniteCoproductIso, Limits.colimit.comp_coconePointUniqueUpToIso_inv,
+    finiteCoproduct.cocone_pt, finiteCoproduct.cocone_ι, Discrete.natTrans_app]
+
+noncomputable
+def ToFiniteCoproductHomeo : finiteCoproduct X ≃ₜ (∐ X : _) :=
```
Comment (semorrison) [inline Mathlib/Topology/Category/Profinite/ExplicitLimits.lean:191]: And here.

File: Mathlib/Topology/Category/Profinite/Limits.lean [hunk 7]
```diff
@@ -0,0 +1,211 @@
...
+def coproductIsoCoproduct : finiteCoproduct X ≅ ∐ X :=
+Limits.IsColimit.coconePointUniqueUpToIso (finiteCoproduct.isColimit X) (Limits.colimit.isColimit _)
+
+theorem Sigma.ι_comp_toFiniteCoproduct (a : α) :
+    finiteCoproduct.ι X a = (Limits.Sigma.ι X a) ≫ (coproductIsoCoproduct X).inv := by
+  simp only [coproductIsoCoproduct, Limits.colimit.comp_coconePointUniqueUpToIso_inv,
+    finiteCoproduct.cocone_pt, finiteCoproduct.cocone_ι, Discrete.natTrans_app]
+
+noncomputable
+def coproductHomeoCoproduct : finiteCoproduct X ≃ₜ (∐ X : _) :=
```
Comment (TwoFX) [inline Mathlib/Topology/Category/Profinite/Limits.lean:191]: It feels inconsistent to have `coproductHomeoCoproduct` but not `pullbackHomeoPullback`. Unless you have some immediate use for it, I would just remove `coproductHomeoCoproduct` for now, considering that you don't develop any API for it. If it turns out to be useful later, it can still be added again together with the necessary API.

File: Mathlib/Topology/Category/Profinite/Limits.lean [hunk 8]
```diff
@@ -0,0 +1,211 @@
...
+  Limits.PullbackCone.isLimitAux _
+    (fun s => pullback.lift f g s.fst s.snd s.condition)
+    (fun _ => pullback.lift_fst _ _ _ _ _)
+    (fun _ => pullback.lift_snd _ _ _ _ _)
+    (fun _ _ hm => pullback.hom_ext _ _ _ _ (hm .left) (hm .right))
+
+section Isos
+
+noncomputable
+def pullbackIsoPullback : Profinite.pullback f g ≅ Limits.pullback f g :=
```
Comment (TwoFX) [inline Mathlib/Topology/Category/Profinite/Limits.lean:106]: There is a missing docstring here (which CI does not catch since the corresponding linter is still disabled in CI).

File: Mathlib/Topology/Category/Profinite/Limits.lean [hunk 9]
```diff
@@ -0,0 +1,211 @@
...
+  uniq := fun s m hm => finiteCoproduct.hom_ext _ _ _ fun a => by
+    specialize hm ⟨a⟩
+    ext t
+    apply_fun (· t) at hm
+    exact hm
+
+section Iso
+
+noncomputable
+def coproductIsoCoproduct : finiteCoproduct X ≅ ∐ X :=
```
Comment (TwoFX) [inline Mathlib/Topology/Category/Profinite/Limits.lean:182]: Another missing docstring.

File: Mathlib/Topology/Category/Profinite/Limits.lean (hunk 7 above)
Comment (dagurtomas) [reply Mathlib/Topology/Category/Profinite/Limits.lean:191]: It will be used in upcoming PR's developing condensed mathematics. But I can add `pullbackHomeoPullback` for consistency.

**Comment by TwoFX** [comment]
Thanks! Please wait until CI has passed before merging.
bors d+

**Comment by semorrison** [comment]
bors merge
